US06939861B2
To a solution of bromophenylacetic acid methyl ester (0.075 g, 0.328 mmol, 1.0 eq) in tetrahydrofuran (5.0 ml) was added 2-furanboronic acid (0.048 g, 0.426 mmol, 1.3 eq) and sodium carbonate (0.328 ml of a 2M soln in H2O). The solution was degassed and sonicated three times before adding tetrakis(triphenylphosphine)palladium (0.038 g, 0.033 mmol, 0.1 eq). The mixture was degassed and sonicated a further three times before stirring at 50° C. for 14 hours. After cooling to room temperature the solution was concentrated under reduced pressure. Column chromatography (silica, 20% EtOAc/hexane) yielded 3-furanylphenylacetic acid methyl ester (0.047 g, 67%) as a white solid; 1H-NMR (CDCl3, 400 MHz): δ 7.60 (1H, d, J=1.6 Hz), 7.47 (1H, t, J=1.0 Hz), 7.34 (1H, t, J=7.5 Hz), 7.19 (2H, m), 6.65 (1H, d, J=3.6 Hz), 6.48 (1H, dd, J=3.6, 1.6 Hz), 3.71 (3H, s), 3.66 (2H, s).

reactant | bromophenylacetic acid methyl ester | 0.328 mmol, 0.075 g, 1.0 eq | COC(C(C1=CC=CC=C1)Br)=O | C9H9BrO2
reactant | 2-furanboronic acid | 0.426 mmol, 0.048 g, 1.3 eq | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.033 mmol, 0.038 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-furanylphenylacetic acid methyl ester | 0.047 g, 67% | COC(CC1=CC(=CC=C1)C=1OC=CC1)=O | C13H12O3
